US07402595B2
6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
To a solution of 6-bromo-4-phenyl-3-isocoumarincarboxylic acid (1.25 g) in methanol (20 ml) were added 4-methanesulfonylbenzylamine hydrochloride (1.6 g) and triethylamine (2.5 ml), and the mixture was stirred at 50° C. for 18 hrs. The solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate, washed with 1N hydrochloric acid, and dried. The solvent was evaporated under reduced pressure. 4N Hydrochloric acid ethyl acetate solution (10 ml) was added to the residue, and the mixture was stirred at room temperature for 18 hrs. The precipitate was collected by filtration, washed with diethyl ether and dried to give the title compound (1.43 g).

reactant | 6-bromo-4-phenyl-3-isocoumarincarboxylic acid | 1.25 g | BrC=1C=C2C(=C(OC(=O)C2=CC1)C(=O)O)C1=CC=CC=C1 | C16H9BrO4
reactant | 4-methanesulfonylbenzylamine hydrochloride | 1.6 g | Cl.CS(=O)(=O)C1=CC=C(CN)C=C1
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | 6-bromo-2-(4-methanesulfonylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 1.43 g | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(=O)O)C1=CC=CC=C1 | C24H18BrNO5S
